US05101072
Example 15 C. 1,2-Bis(methylsulfonyl)-1,2-dimethylhydrazine
1,2-Dimethylhydrazine dihydrochloride (2.6 g, 0.02 mol) was suspended in ice-cold dry pyridine (6 ml) and the mixture was stirred for 10 minutes. Methanesulfonyl chloride (5.0 g, 0.043 mol) was added in portions to this mixture, while maintaining the temperature between 0° and 10° C. After an additional 1 hour of stirring at 0° to 5° C., the reaction mixture was left in a freezer (-10° C.) overnight. The pH of the reaction mixture was adjusted to pH 1 with cold dilute hydrochloric acid. The solid that separated was filtered and recrystallized from ethanol (Norit A) to give 1.4 g (32%) of the title compound: m.p. 168°-169° C.; anal. (C4H12N2O4S2) C,H,N; 1H NMR (CDCl3) δ 3.1 [2s, 12H, 2(CH3SO2NCH3)].

reactant | 1,2-Dimethylhydrazine dihydrochloride | 0.02 mol, 2.6 g | Cl.Cl.CNNC
reactant | Methanesulfonyl chloride | 0.043 mol, 5.0 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
product | 1,2-Bis(methylsulfonyl)-1,2-dimethylhydrazine | 1.4 g, 32% | CS(=O)(=O)N(N(C)S(=O)(=O)C)C | C4H12N2O4S2
